US04438128
1-(4-Fluorophenoxy)-3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol benzoate
3.36 g. 4-Fluorophenyl glycidyl ether and 7.0 g. 4-(2-aminoethylamino)-indazole are dissolved in 10 ml. dimethylformamide and left to stand for 2 days at ambient temperature. The reaction mixture is then poured into water, extracted with methylene chloride, dried and purified chromatographically on silica gel in the manner described in Example 24. The residue of the pure fractions is taken up in ethyl acetate, then mixed with 2 g. benzoic acid, filtered off with suction and recrystallized from isopropyl alcohol, with the use of active charcoal. There are obtained 5.6 g. (60% of theory) of the desired product in the form of colorless crystals; m.p. 157°-159° C.

reactant | 4-Fluorophenyl glycidyl ether | C(C1CO1)OC1=CC=C(C=C1)F | C9H9FO2
reactant | 4-(2-aminoethylamino)-indazole | NCCNC1=C2C=NNC2=CC=C1 | C9H12N4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | water | O | H2O
product | 1-(4-Fluorophenoxy)-3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol benzoate | C(C1=CC=CC=C1)(=O)OC(COC1=CC=C(C=C1)F)CNCCNC1=C2C=NNC2=CC=C1 | C25H25FN4O3
